US07750154B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 6 which is concerned with the preparation of starting material, cyclobutylamine was reacted with 4-methyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid to give N-cyclobutyl-4-methyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide (AZ12239932); NMR Spectrum: (CDCl3) 1.11 (d, 6H), 1.75 (m, 2H), 1.93 (m, 2H), 2.23 (s, 3H), 2.41 (m, 2H), 2.75 (m, 5H), 3.38 (m, 4H), 4.57 (m, 1H), 6.30 (d, 1H), 7.26 (s, 1H), 7.44 (m, 2H), 7.66 (m, 2H), 7.79 (m, 2H); Mass Spectrum: M+H+ 460.

reactant | cyclobutylamine | C1(CCC1)N | C4H9N
reactant | 4-methyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C(C)C | C23H26N4O3
product | N-cyclobutyl-4-methyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide | C1(CCC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C(C)C)=O | C27H33N5O2
